US03992535
4-Hydroxy-N-(3-methoxyphenyl)-2-methyl-2H -naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 1 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 3-methyoxy-aniline. Yield: 82% of theory; m.p. 242°-244° C (decomp.; from xylene).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 3-methyoxy-aniline | COC=1C=C(N)C=CC1 | C7H9NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-N-(3-methoxyphenyl)-2-methyl-2H -naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 82% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=CC(=CC=C1)OC | C21H18N2O5S
